US08071581B2
Intermediate 30: [3-(1-Methyl-1H-pyrazol-4-yl)-quinolin-6-yl]-acetic acid
To a 20 mL microwave vial was added (3-bromo-quinolin-6-yl)-acetic acid (1 g, 3.77 mmol), 1-methyl-4-pyrazoleboronic acid pinacol ester and 1,4-dioxane (10 mL). Nitrogen was bubbled through the mixture for 10 minutes. Potassium carbonate (1.56 g, 11.3 mmol) was and water (5 mL) were then added, and nitrogen was bubbled through the mixture for a further three minutes. After such time dichlorobis(triphenylphosphine)palladium (138 mg, 0.19 mmol) was added, the vial sealed and heated in a microwave for 1250 seconds at 130° C. The mixture was then filtered through celite, which was washed with water and saturated aqueous sodium bicarbonate. The 1,4-dioxane in the solution was removed under vacuum and the remaining aqueous solution washed with dichloromethane three times. The water layer was acidified to pH 6 using 4M hydrochloric acid and the formed precipitate collected via filtration and dried to return the title compound as an off white solid. (500 MHz, DMSO-d6): ES-MS m/z: 268 (M+H+).

reactant | (3-bromo-quinolin-6-yl)-acetic acid | 3.77 mmol, 1 g | BrC=1C=NC2=CC=C(C=C2C1)CC(=O)O | C11H8BrNO2
reactant | 1-methyl-4-pyrazoleboronic acid pinacol ester | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | Potassium carbonate | 11.3 mmol, 1.56 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium | 0.19 mmol, 138 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 5 mL | O | H2O
product | [3-(1-Methyl-1H-pyrazol-4-yl)-quinolin-6-yl]-acetic acid | CN1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC(=O)O | C15H13N3O2
